US07851473B2
(3) N-1,2-benzisoxazol-3-yl-4-(4-phenyl-1,3-oxazol-2-yl)piperazine-1-carboxamide
A mixture of 1-(4-Phenyl-1,3-oxazol-2-yl)piperazine (391 mg, 0.807 mmol), bis(2,2,2-trichloroethyl) 1,2-benzisoxazol-3-ylimidodicarbonate (370 mg, 1.61 mmol), diisopropylethylamine (0.141 ml, 0.807 mmol) and dimethylsulfoxide (5 ml) was stirred at 70° C. for 2 hours. The reaction mixture was poured to water and extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=2:1) to give the desired product as a solid. The resulting solid was recrystallized from a mixed solvent of ethyl acetate and hexane to give 44.0 mg (14.1%) of the desired product. mp 171-172° C.

reactant | 1-(4-Phenyl-1,3-oxazol-2-yl)piperazine | 0.807 mmol, 391 mg | C1(=CC=CC=C1)C=1N=C(OC1)N1CCNCC1 | C13H15N3O
reactant | bis(2,2,2-trichloroethyl) 1,2-benzisoxazol-3-ylimidodicarbonate | 1.61 mmol, 370 mg | O1N=C(C2=C1C=CC=C2)N(C(=O)OCC(Cl)(Cl)Cl)C(=O)OCC(Cl)(Cl)Cl | C13H8Cl6N2O5
reactant | diisopropylethylamine | 0.807 mmol, 0.141 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | dimethylsulfoxide | 5 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | N-1,2-benzisoxazol-3-yl-4-(4-phenyl-1,3-oxazol-2-yl)piperazine-1-carboxamide | O1N=C(C2=C1C=CC=C2)NC(=O)N2CCN(CC2)C=2OC=C(N2)C2=CC=CC=C2 | C21H19N5O3
